US09079914B2
Synthesis of 5-ethoxypyrazine-2-carboxylic acid 27-(2)
Ethyl 5-ethoxypyrazine-2-carboxylate (0.65 g, approx. purity 85%) was dissolved in dioxan (3 mL) and water (3 mL) was added, followed by lithium hydroxide monohydrate (255 mg, portionwise over 10 mins). After stirring at RT for 24 h, diethyl ether (25 mL) and NaHCO3 (sat., aq., 25 mL) were added. The layers were separated and the organic layer was extracted with NaOH (1 N, aq., 25 mL). The combined aqueous portions were acidified with 6N HCl to pH 2, and the mixture extracted with EtOAc (3×40 mL). The combined EtOAc extracts were dried over MgSO4 and evaporated to afford the title compound as an off-white powder. 1H NMR (400 MHz, CDCl3) δ ppm 1.47 (t, J=7.1 Hz, 3H), 4.53 (q, J=7.1 Hz, 2H), 8.16 (d, J=1.2 Hz, 1H), 8.98 (d, J=1.2 Hz, 1H)

reactant | Ethyl 5-ethoxypyrazine-2-carboxylate | 0.65 g | C(C)OC=1N=CC(=NC1)C(=O)OCC | C9H12N2O3
reactant | water | 3 mL | O | H2O
reactant | lithium hydroxide monohydrate | O.[OH-].[Li+]
reactant | NaHCO3 | 25 mL | C(=O)(O)[O-].[Na+]
solvent | dioxan | 3 mL | O1CCOCC1 | C4H8O2
solvent | diethyl ether | 25 mL | C(C)OCC | C4H10O
product | 5-ethoxypyrazine-2-carboxylic acid | C(C)OC=1N=CC(=NC1)C(=O)O | C7H8N2O3
